US08183272B2
(10a) 1-[2-Bromo-3-(trifluoromethyl)phenyl]ethanone
A mixture solution of 2-bromo-3-(trifluoromethyl)benzoic acid (2.50 g, 9.29 mmol), N, O-dimethylhydroxylamine hydrochloride (1.18 g, 12.1 mmol), N-methylmorpholine (2.1 mL, 18.6 mmol), and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (3.78 g, 12.1 mmol) in acetonitrile (45 mL) was stirred at room temperature for 18 hours. The reaction solution was concentrated under reduced pressure. The resulting residue was added with 1 N aqueous hydrochloride solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was dissolved in tetrahydrofuran (90 mL), added with a solution (0.93 M) of methyl magnesium bromide in tetrahydrofuran (13.0 mL, 12.1 mmol) at −20° C., and stirred at room temperature for 18 hours. The reaction solution was poured over 1 N aqueous hydrochloride solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to give the title compound as a colorless oily substance (1.27 g, yield 44%).

reactant | 2-bromo-3-(trifluoromethyl)benzoic acid | 9.29 mmol, 2.50 g | BrC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H4BrF3O2
reactant | N-methylmorpholine | 18.6 mmol, 2.1 mL | CN1CCOCC1 | C5H11NO
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 12.1 mmol, 3.78 g | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | methyl magnesium bromide | 0.93 M | C[Mg]Br
reactant | tetrahydrofuran | 12.1 mmol, 13.0 mL | O1CCCC1 | C4H8O
reactant | hydrochloride | 1 N | Cl | ClH
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
product | 1-[2-Bromo-3-(trifluoromethyl)phenyl]ethanone | yield 44% | BrC1=C(C=CC=C1C(F)(F)F)C(C)=O | C9H6BrF3O
